US08957074B2
2-(4-(2-chloro-5-(3-hydroxyprop-1-ynyl)pyrimidin-4-ylamino)phenyl)-2-methylpropanenitrile
2-(4-(5-bromo-2-chloropyrimidin-4-ylamino)phenyl)-2-methylpropanenitrile (1.4 gm, 3.98 mmol), bis(triphenylphosphine) palladium(II) chloride (0.14 gm, 0.2 mmol), tetrabutyl ammonium fluoride (2.6 gm, 9.95 mmol) and propargyl alcohol (0.357 mL, 5.97 mmol) were combined into 12 mL THF in a screw cap high pressure vessel and heated in a 70° C. oil bath. After 2 hr the reaction appeared complete by LC/MS. Volatiles were removed and the residue taken up into EtOAc. Organic layer was filtered to remove insoluble soot. Organic layer was washed with water, brine and then dried over sodium sulfate. Volatiles were removed and the residue purified by NPLC (10-75% EtOAc in Heptane, Analogix). (869 mg, 67%). MS m/z 327.4 (M+H)

reactant | 2-(4-(5-bromo-2-chloropyrimidin-4-ylamino)phenyl)-2-methylpropanenitrile | 3.98 mmol, 1.4 gm | BrC=1C(=NC(=NC1)Cl)NC1=CC=C(C=C1)C(C#N)(C)C | C14H12BrClN4
reactant | tetrabutyl ammonium fluoride | 9.95 mmol, 2.6 gm | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | propargyl alcohol | 5.97 mmol, 0.357 mL | C(C#C)O | C3H4O
catalyst | bis(triphenylphosphine) palladium(II) chloride | 0.2 mmol, 0.14 gm | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 2-(4-(2-chloro-5-(3-hydroxyprop-1-ynyl)pyrimidin-4-ylamino)phenyl)-2-methylpropanenitrile | ClC1=NC=C(C(=N1)NC1=CC=C(C=C1)C(C#N)(C)C)C#CCO | C17H15ClN4O
